US05478858
A mixture of N-(1-tert-butoxycarbonyl-7-fluoro-4-methyl-5-benzimidazolyl)-N'-2-aminoethylthiourea (0.5 g) and mercuric acetate (0.52 g) in methanol (150 mL) is stirred at room temperature for 1 hour. The resulting black mixture is filtered on Celite with methanol wash of the solids. The filtrate is rotary evaporated and the residue filtered through a shod pad of silica gel, eluting 25% methanol in chloroform containing 1% of ammonium hydroxide. The product-containing fractions are rotary evaporated, the residue diluted with water (15 mL), filtered through a plug of glass wool and lyophilized to afford 7-fluoro-4-methyl-5-(2-imidazolinylamino)benzimidazole as a pale yellow solid.

reactant | N-(1-tert-butoxycarbonyl-7-fluoro-4-methyl-5-benzimidazolyl)-N'-2-aminoethylthiourea | 0.5 g | C(C)(C)(C)OC(=O)N1C=NC2=C1C(=CC(=C2C)NC(=S)NCCN)F | C16H22FN5O2S
solvent | methanol | 150 mL | CO | CH4O
product | 7-fluoro-4-methyl-5-(2-imidazolinylamino)benzimidazole | FC1=CC(=C(C2=C1N=CN2)C)NN2C=NCC2 | C11H12FN5
